US05962458
Thionyl chloride (1.0 ml) was added to a solution of 2-chloro-4-hydroxymethyl-6-methoxypyridine (0.9 g, 5.2 mmol) in toluene (10 ml) and the mixture stirred at ambient temperature for 1 hour. The volatiles were removed by evaporation, the residue was azeotroped with toluene and dried under vacuum to give 2-chloro-4-chloromethyl-6-methoxypyridine hydrochloride (0.88 g, 74%).

reactant | Thionyl chloride | 1.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-4-hydroxymethyl-6-methoxypyridine | 5.2 mmol, 0.9 g | ClC1=NC(=CC(=C1)CO)OC | C7H8ClNO2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-chloromethyl-6-methoxypyridine hydrochloride | 0.88 g, 74% | Cl.ClC1=NC(=CC(=C1)CCl)OC | InChI=1S/C7H7Cl2NO.ClH/c1-11-7-3-5(4-8)2-6(9)10-7;/h2-3H,4H2,1H3;1H
